US05371093
[2-Benzothiazolyl][1-[2-(4-methoxyphenyl)ethyl]-4-piperidinyl]methanone
Mix (2-benzothiazolyl)(4-piperidinyl)methanone.CF3CO2H (331 g, 9.19 mmol), 2-(4-methoxyphenyl)ethyl bromide (2.07 g, 9.64 mmol), potassium carbonate (3.33 g, 24.1 mmol) and dimethylformamide (35 mL) and heat at 90° C. overnight. Cool to room temperature and partition between a 2:1 mixture of ethyl acetate/toluene and water. Separate the aqueous phase and wash the organic phase with water and brine. Dry (MgSO4) and evaporate the solvent in vacuo. Purify by chromatography (30% ethyl acetate/hexane) and recrystallize (cyclohexane) to give the title compound as a tan powder; mp 119°-120° C.

reactant | (2-benzothiazolyl)(4-piperidinyl)methanone | S1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2 | C13H14N2OS
reactant | CF3CO2H | 9.19 mmol, 331 g | C(F)(F)(F)C(=O)O | C2HF3O2
reactant | 2-(4-methoxyphenyl)ethyl bromide | 9.64 mmol, 2.07 g | COC1=CC=C(C=C1)CCBr | C9H11BrO
reactant | potassium carbonate | 24.1 mmol, 3.33 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
product | [2-Benzothiazolyl][1-[2-(4-methoxyphenyl)ethyl]-4-piperidinyl]methanone | S1C(=NC2=C1C=CC=C2)C(=O)C2CCN(CC2)CCC2=CC=C(C=C2)OC | C22H24N2O2S
